US07560093B2
According to batch size, gel composition and contents of sodium silicate, sodium aluminate solution is prepared. This is added at a controlled rate and at ambient temperature to sodium silicate solution taken previously in a stainless steel reactor. Slurry of reaction mixture is allowed to crystallize at temperature 70-100° C. for 1 to 5 hours until Zeolite-A formation takes place. Zeolite-A slurry is filtered and washed till filtrate pH was ˜11 to 10.5. Wet cake thus obtained is dried in a dryer and dry powder was pulverized and subjected to analysis. The comparison of the properties of detergent builder Zeolite-A produced according to present invention (Example 10) and SASIL (Degussa-Henkel) is given in Table 1.

reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium aluminate | O=[Al-]=O.[Na+]
product | Zeolite-A | O.[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Na+].[Na+].[Al+3].[Al+3].[Si+4] | InChI=1S/2Al.2Na.H2O.6O.Si/h;;;;1H2;;;;;;;/q2*+3;2*+1;;6*-2;+4
